US07834049B2
2-Amino-5-pyrimidinesulfonyl chloride
21 ml (0.316 mol) of chlorosulfonic acid was cooled in ice-water and 3 g (0.032 mol) of 2-aminopyrimidine was added thereto little by little under stirring. 9.2 ml (0.126 mol) of thionyl chloride was further added thereto, followed by stirring at 150° C. for 70 hours. The reaction solution was returned to room temperature, poured into water and extracted with ethyl acetate. The extract was dried over sodium sulfate and then concentrated to dryness, to give 1.7 g of the title compound.

reactant | chlorosulfonic acid | 0.316 mol, 21 ml | ClS(=O)(=O)O | ClHO3S
reactant | 2-aminopyrimidine | 0.032 mol, 3 g | NC1=NC=CC=N1 | C4H5N3
reactant | thionyl chloride | 0.126 mol, 9.2 ml | S(=O)(Cl)Cl | Cl2OS
solvent | water | O | H2O
product | 2-Amino-5-pyrimidinesulfonyl chloride | 1.7 g | NC1=NC=C(C=N1)S(=O)(=O)Cl | C4H4ClN3O2S
